US06498161B1
Step A: 4-(3-(Methylamino)-1-propyl)-1-tert-butoxycarbonyl-piperidine
A solution of 4-(3-iodoprop-1-yl)-1-tert-butoxycarbonyl-piperidine (728 mg, 2.06 mmol,) in 5.0 mL of THF was treated with 5.0 mL of methylamine (70% in water) and the resulting mixture was stirred at rt for 18 h. The mixture was partitioned between diethyl ether (50 mL) and water (50 mL) and the layers were separated. The organic layer was washed with 50 mL of sat'd NaCl, dried and concentrated to afford 457 mg (83%) of the title compound: 1H NMR (500 MHz, CDCl3): δ 1.05-1.68 (19H), 1.47 (s, 9H), 2.45 (s, 3H), 2.56-2.68 (4H), 4.00-4.15 (2H).

reactant | 4-(3-iodoprop-1-yl)-1-tert-butoxycarbonyl-piperidine | 2.06 mmol, 728 mg | ICCCC1CCN(CC1)C(=O)OC(C)(C)C | C13H24INO2
reactant | methylamine | 5.0 mL | CN | CH5N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-(3-(Methylamino)-1-propyl)-1-tert-butoxycarbonyl-piperidine | 457 mg, 83% | CNCCCC1CCN(CC1)C(=O)OC(C)(C)C | C14H28N2O2
